US08735362B2
Step A: (2-Benzyl-isoxazolidin-5-ylmethyl)-carbamic acid tert-butyl ester
Following the procedure described in Tetrahedron 55, 1999, 4685-4698, N—BOC-allylamine (2 g) was dissolved in toluene (130 ml) and ethanol (45 ml) then benzylhydroxylamine hydrochloride (3.05 g), paraformaldehyde (3.16 g) and triethylamine (1.93 g) were added. The reaction mixture was allowed to stir at room temperature for 24 hours, then the solvent was evaporated in vacuo. The resulting residue was diluted in ethyl acetate and the hydrochloride salt of triethylamine was filtered off. The filtrate was concentrated in vacuo and the residue purified by column chromatography (ethyl acetate/cyclohexane 1:1) to afford the title compound as a colorless oil (4.37 g). LCMS (Method F) 1.53 min, M+H 293.

reactant | N—BOC-allylamine | 2 g | C(=O)(OC(C)(C)C)NCC=C | C8H15NO2
reactant | ethanol | 45 ml | C(C)O | C2H6O
reactant | benzylhydroxylamine hydrochloride | 3.05 g | Cl.C(C1=CC=CC=C1)NO
reactant | paraformaldehyde | 3.16 g | C=O | CH2O
solvent | toluene | 130 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 1.93 g | C(C)N(CC)CC | C6H15N
product | (2-Benzyl-isoxazolidin-5-ylmethyl)-carbamic acid tert-butyl ester | 4.37 g | C(C)(C)(C)OC(NCC1CCN(O1)CC1=CC=CC=C1)=O | C16H24N2O3
